US09353089B2
Step 1. Preparation of 1,2-bis(4-hydroxyphenyl)ethane-1,2-dione
4,4′-dimethoxybenzil (2.0 g, 7.41 mmol) was dissolved in 30 mL of hydrogen bromide and 10 mL of acetic acid glacial. The reaction was stirred at reflux temperature overnight. The mixture was extracted with ethyl acetate and the organic phase was washed with water, dried over sodium sulphate. Concentration under vaccum gave the title compound as a yellow solid (1.9 g, quantitative).

reactant | 4,4′-dimethoxybenzil | 7.41 mmol, 2.0 g | COC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)OC | C16H14O4
solvent | hydrogen bromide | 30 mL | Br | BrH
solvent | acetic acid glacial | 10 mL | CC(=O)[O-]
product | 1,2-bis(4-hydroxyphenyl)ethane-1,2-dione | 1.9 g | OC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)O)=O | C14H10O4
